US06207662B1
(±)-4-(4-Chlorobenzyl)-2-[(4-cyano-2-ethoxyphenoxy)methyl]morpholine oxalic acid salt.
A mixture of (±)-4-(4-chlorobenzyl)-2-[(2-ethoxy-iodophenoxy)methyl]-morpholine (1.0 g, 2.1 mmol), zinc cyanide (0.17 g, 1.4 mmol) and tetrakis(triphenylphosphino)palladium(O) (349 mg, 0.3 mmol) in DMF (15 ml) was heated to 80° C. for 3 h. Water was added and the solids were filtered off. The filtrate was extracted twice with ethyl acetate. Drying over magnesium sulfate was followed by evaporation. The crude product was dissolved in ether and an ethereal solution of oxalic acid was added to precipitate the product.

reactant | (±)-4-(4-chlorobenzyl)-2-[(2-ethoxy-iodophenoxy)methyl]-morpholine | 2.1 mmol, 1.0 g | ClC1=CC=C(CN2CC(OCC2)COC2=C(C(=CC=C2)I)OCC)C=C1 | C20H23ClINO3
reactant | Water | O | H2O
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 1.4 mmol, 0.17 g | [C-]#N.[Zn+2].[C-]#N
product | (±)-4-(4-Chlorobenzyl)-2-[(4-cyano-2-ethoxyphenoxy)methyl]morpholine oxalic acid salt | C(C(=O)O)(=O)O.ClC1=CC=C(CN2CC(OCC2)COC2=C(C=C(C=C2)C#N)OCC)C=C1 | InChI=1S/C21H23ClN2O3.C2H2O4/c1-2-25-21-11-17(12-23)5-8-20(21)27-15-19-14-24(9-10-26-19)13-16-3-6-18(22)7-4-16;3-1(4)2(5)6/h3-8,11,19H,2,9-10,13-15H2,1H3;(H,3,4)(H,5,6)
